US04294757
In 300 ml of chloroform is dissolved 33.7 g (0.22 mole) of N-methyl-L-analine methyl ester.hydrochloride, followed by the addition of 65 ml of acetic anhydride and 110 ml of triethylamine. The mixture is allowed to stand at a room temperature for 24 hours and, after the excess of acetic anhydride is decomposed with water, is neutralized with sodium hydrogen carbonate. The chloroform layer is separated and, the water layer is extracted with ethyl acetate (120 ml×5), followed by combining the chloroform and ethyl acetate layers to concentrate under reduced pressure. The brown, oily substance obtained is dissolved in chloroform, washed with aqueous sodium hydrogen carbonate and concentrated under reduced pressure. By the above procedure, there is obtained 31.8 g of N-acetyl-N-methyl-L-alanine methyl ester as brown oil.

reactant | acetic anhydride | 65 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 110 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | N-acetyl-N-methyl-L-alanine methyl ester | 31.8 g | COC([C@@H](N(C)C(C)=O)C)=O | C7H13NO3
